US08314094B2
2-Amino-5-chlorobenzonitrile (500 mg, 3.28 mmol) was dissolved in THF (10 mL), and while stirring the reaction solution at 0° C., cyclopropyl magnesium bromide (0.5 M THF solution, 26.4 mL) was added dropwise thereto. The reaction solution was stirred overnight under heating at 80° C., followed by ice-cooling, and 2 N hydrochloric acid was added thereto under ice-cooling. After the reaction solution was stirred at room temperature for 2 hours, the solution was diluted with ethyl acetate and then neutralized with a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated and washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1), whereby (2-amino-5-chlorophenyl)(cyclopropyl)methanone (453 mg, 83%) was obtained as a yellow solid.

reactant | 2-Amino-5-chlorobenzonitrile | 3.28 mmol, 500 mg | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | cyclopropyl magnesium bromide | 0.5 M, 26.4 mL | C1(CC1)[Mg]Br
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-amino-5-chlorophenyl)(cyclopropyl)methanone | 453 mg, 83% | NC1=C(C=C(C=C1)Cl)C(=O)C1CC1 | C10H10ClNO
